US05306827
Preparation of Trifluoromethyl 1-chloro-N-(p-chlorobenzyl)thioformimidate
Trifluoromethylsulfenyl chloride (4.0 g, 0.03 mol) is bubbled over 30 minutes into a solution of 4-chlorobenzylisonitrile (3.0 g, 0.02 mol) in methylene chloride, causing the formation of a white precipitate. The suspension is stirred for 16 hours at room temperature and filtered to remove solids. The white filter cake is washed with methylene chloride and solvent is removed under reduced pressure to obtain an amber oil. Bulb-to-bulb distillation of the oil (90°-100° C., 0.05 mmhg) gives the title product as a colorless oil (3.9 g, 68%).

reactant | Trifluoromethylsulfenyl chloride | 0.03 mol, 4.0 g | FC(SCl)(F)F | CClF3S
reactant | 4-chlorobenzylisonitrile | 0.02 mol, 3.0 g | ClC1=CC=C(C[N+]#[C-])C=C1 | C8H6ClN
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trifluoromethyl 1-chloro-N-(p-chlorobenzyl)thioformimidate | 3.9 g, 68% | ClC(SC(F)(F)F)=NCC1=CC=C(C=C1)Cl | C9H6Cl2F3NS
